US05284602
46.8 g of N-lauroyl-β-alanine was dispersed in 155 ml of methylene chloride. Then, 24.8 g of thionyl chloride was added thereto within 10 minutes under stirring while maintaining the temperature of the mixture at 20° C. After the completion of the addition, the mixture was stirred at the same temperature for 30 minutes so as to complete the reaction. When the reaction solution thus obtained was analyzed by infrared spectroscopy, a peak at 1695 cm-1 due to carboxylic acid (--COOH) disappeared while a new peak due to acid chloride (--COCl) was formed at 1782 cm-1. These facts indicated that an acid chloride was obtained. Then, the methylene chloride employed as the solvent and side products (sulfur dioxide and hydrogen chloride) were distilled off from the reaction mixture under reduced pressure. Thus, 50.5 g of N-lauroyl-3-aminopropionic acid chloride was obtained.

reactant | N-lauroyl-β-alanine | 46.8 g | C(CCCCCCCCCCC)(=O)NCCC(=O)O | C15H29NO3
reactant | thionyl chloride | 24.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 155 ml | C(Cl)Cl | CH2Cl2
product | N-lauroyl-3-aminopropionic acid chloride | 50.5 g | C(CCCCCCCCCCC)(=O)NCCC(=O)Cl | C15H28ClNO2
